US07897607B2
3-(2,6-dichlorophenyl)-3-oxopropanenitrile
n-Butyl lithium (20.1 mL, 32.2 mmol, 1.6M in hexanes) was added to THF (30 mL) and the solution was cooled to −78° C. Acetonitrile (1.7 mL, 32 mmol) was added dropwise and the reaction stirred at the temperature for 45 minutes. Methyl 2,6-dichlorobenzoate (1.00 g, 4.88 mmol) was dissolved in 2 mL THF and added to the reaction mixture. The reaction stirred at −78° C. for 0.5 hr. The solution was quenched with methanol and warmed to room temperature. The material was diluted with water and 1N HCl. The solution was then extracted with Ethyl acetate, dried, and concentrated to give 1.08 g of desired product at 85% purity. Material used as is in the next step.

reactant | n-Butyl lithium | 32.2 mmol, 1.6M, 20.1 mL | C(CCC)[Li]
reactant | Acetonitrile | 32 mmol, 1.7 mL | C(C)#N | C2H3N
reactant | Methyl 2,6-dichlorobenzoate | 4.88 mmol, 1.00 g | ClC1=C(C(=O)OC)C(=CC=C1)Cl | C8H6Cl2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(2,6-dichlorophenyl)-3-oxopropanenitrile | 1.08 g | ClC1=C(C(=CC=C1)Cl)C(CC#N)=O | C9H5Cl2NO
